US03983111
3α-Hydroxy-21-morpholino-5α-pregnane-11,20-dione hydrochloride
A solution of 3α-hydroxy-21-morpholino-5α-pregnane-11,20-dione (104.14 mg., 0.25 mmole) in ethanol (4 ml.) was treated with 0.1N hydrochloric acid (2.5 ml., 0.25 mmole). The solution was evaporated in vacuo and then treated with water (5 ml.). The undissolved solid (8.4 mg.) was removed by filtration and the filtrate was made up to 9.6 ml. with distilled water to give a 1% aqueous solution of the title compound.

reactant | 3α-hydroxy-21-morpholino-5α-pregnane-11,20-dione | 0.25 mmole, 104.14 mg | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(CN5CCOCC5)=O)[C@]4(CC([C@@H]3[C@]2(CC1)C)=O)C | C25H39NO4
reactant | hydrochloric acid | 0.25 mmole, 0.1N, 2.5 ml | Cl | ClH
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 3α-Hydroxy-21-morpholino-5α-pregnane-11,20-dione hydrochloride | Cl.O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(CN5CCOCC5)=O)[C@]4(CC([C@@H]3[C@]2(CC1)C)=O)C | InChI=1S/C25H39NO4.ClH/c1-24-8-7-17(27)13-16(24)3-4-18-19-5-6-20(25(19,2)14-21(28)23(18)24)22(29)15-26-9-11-30-12-10-26;/h16-20,23,27H,3-15H2,1-2H3;1H/t16-,17+,18-,19-,20+,23+,24-,25-;/m0./s1
